US04415572
A mixture of 2.7 g of 6-amino-3,4-dihydrocarbostyril, 5.9 g of N,N-bis(2-hydroxyethyl)-3,4-dimethoxybenzamide and 8.6 g of 85% phosphoric acid was reacted at 165° to 175° C. for 4.5 hours while stirring. After allowing to cool, to the reaction mixture was added dropwise about 50 ml of water to dissolve. The solution was neutralized with an aqueous 48% sodium hydroxide solution and extracted with chloroform. After drying the extract over potassium carbonate, chloroform was distilled off. Recrystallization of the residue from ethanol-chloroform gave 4.7 g of 6-[4-(3,4-dimethoxybenzoyl)-1-piperazinyl]-3,4-dihydrocarbostyril, m.p. 238°-239.5° C., colorless granules.

reactant | 6-amino-3,4-dihydrocarbostyril | 2.7 g | NC=1C=C2CCC(NC2=CC1)=O | C9H10N2O
reactant | N,N-bis(2-hydroxyethyl)-3,4-dimethoxybenzamide | 5.9 g | OCCN(C(C1=CC(=C(C=C1)OC)OC)=O)CCO | C13H19NO5
reactant | phosphoric acid | 8.6 g | P(O)(O)(O)=O | H3O4P
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | about 50 ml | O | H2O
product | 6-[4-(3,4-dimethoxybenzoyl)-1-piperazinyl]-3,4-dihydrocarbostyril | 4.7 g | COC=1C=C(C(=O)N2CCN(CC2)C=2C=C3CCC(NC3=CC2)=O)C=CC1OC | C22H25N3O4
